US07410984B2
[Methyl-(4-{2-oxo-3-[4-(3-o-tolyl-ureido)phenyl]-2H-pyridin-1-ylmethyl}-phenyl)amino]acetic acid (E11)
Potassium trimethylsilanolate (0.035 g, 0.25 mmol) was added to a solution of [methyl-(4-{2-oxo-3-[4-(3-o-tolyl-ureido)phenyl]-2H-pyridin-1-ylmethyl}phenyl)amino]acetic acid ethyl ester (0.90 g, 0.17 mmol) in tetrahydrofuran (5 mL) and the mixture stirred at room temperature for 2 hours. A solution of hydrochloric acid in diethyl ether (1 M, 1 mL) was added and solvent evaporated. The residue was triturated with diethyl ether, filtered and dried to give the title compound as a solid.

reactant | Potassium trimethylsilanolate | 0.25 mmol, 0.035 g | C[Si]([O-])(C)C.[K+]
reactant | [methyl-(4-{2-oxo-3-[4-(3-o-tolyl-ureido)phenyl]-2H-pyridin-1-ylmethyl}phenyl)amino]acetic acid ethyl ester | 0.17 mmol, 0.90 g | C(C)OC(CN(C1=CC=C(C=C1)CN1C(C(=CC=C1)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)C)=O | C31H32N4O4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 1 M, 1 mL | C(C)OCC | C4H10O
product | [Methyl-(4-{2-oxo-3-[4-(3-o-tolyl-ureido)phenyl]-2H-pyridin-1-ylmethyl}-phenyl)amino]acetic acid | CN(C1=CC=C(C=C1)CN1C(C(=CC=C1)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)CC(=O)O | C29H28N4O4
